US04145559
Ethyl acrylate (50 g.) is added dropwise under nitrogen to a solution maintained at 60° C. and containing 500 g. of methyl methacrylate, 2.0 g. of the methyl ether of hydroquinone, and 6.0 g. of hexa-n-propylphosphorus triamide. The reaction was held at 60° C. for a total of 24 hours. After removal of unrected ethyl acrylate and methyl methacrylate, the 69.2 g. of residue analyzes for 22.4 g. of ethyl 2-methylene-4-carbomethoxypentanoate and 27.8 g. of diethyl 2-methyleneglutarate. Spectral analysis is consistent for the structure of the products. Further, hydrolysis of the ethyl 2-methylene-4-carbomethoxypentanoate gives 2-methylene-4-methylglutaric acid, which was identical to that produced in Example 1.

reactant | Ethyl acrylate | 50 g | C(C=C)(=O)OCC | C5H8O2
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | methyl ether | COC | C2H6O
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 2-methylene-4-methylglutaric acid | C=C(C(=O)O)CC(C(=O)O)C | C7H10O4
